US05225501
To 200 ml of THF and 16.5 g of fluorene cooled to a temperature of -50° C. or lower in a 500-ml flask thoroughly purged with nitrogen was added 67 ml of a dil. methyllithium diethyl ether solution (1.4 M) dropwise over 30 minutes. The mixture was warmed gradually to room temperature and subjected to reaction for 3 hours. The reaction mixture was cooled back to a temperature of -50° C. or lower and 10 g of 6,6-dimethylfulvene was added dropwise over 30 minutes. After the addition was completed, the solution was warmed slowly to room temperature and subjected to reaction for 2 days. The reaction was terminated by the addition of 60 ml of H2O, and the ether layer was separated and dehydrated over anhydrous MgSO4. Drying ether by evaporation, gave 17.6 g of 2-cyclopentadienyl-2-fluorenylpropane as crude crystals.

reactant | fluorene | 16.5 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 6,6-dimethylfulvene | 10 g | CC(=C1C=CC=C1)C | C8H10
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-cyclopentadienyl-2-fluorenylpropane | 17.6 g | C1(C=CC=C1)C(C)(C)C1=CC=CC=2C3=CC=CC=C3CC12 | C21H20
